US06743794B2
N-[(1R,3S)-3-(9-chloro-3-methyl-4-oxo-5H-isoxazolo[4,3-c]quinolin-5-yl)-cyclohexylmethyl]-nicotinamide
To a solution of (1R, 3S) 3-(9-chloro-3-methyl-4-oxo-5H-isoxazolo[4,3-c]quinolin-5-yl)-cyclohexyl methyl amide (700 mg, 2.0 mmol) in 35 mL of dichloromethane was added 440 mg (2.4 mmol) of nicotinoyl chloride hydrochloride, 0.85 mL (6.0 mmol) of triethylamine and 5 mg of 4-dimethylaminopyridine. The reaction mixture was stirred overnight at ambient temperature, then washed with 1 N hydrochloric acid. The aqueous layer was extracted with 20% isopropanol/chloroform. The combined organics were washed with saturated sodium carbonate, brine, dried over sodium sulfate, filtered and concentrated to dryness. The residue was chromatographed on silica gel using methanol/chloroform as eluent to yield 740 mg (82%) of the desired isomer as a white solid. MS (ion spray) 451.1 (M+1).

reactant | (1R, 3S) 3-(9-chloro-3-methyl-4-oxo-5H-isoxazolo[4,3-c]quinolin-5-yl)-cyclohexyl methyl amide | 2.0 mmol, 700 mg | ClC=1C=2C=3C(C(N(C2C=CC1)[C@@H]1C[C@@H](CCC1)[N-]C)=O)=C(ON3)C
reactant | nicotinoyl chloride hydrochloride | 2.4 mmol, 440 mg | Cl.C(C1=CN=CC=C1)(=O)Cl
reactant | triethylamine | 6.0 mmol, 0.85 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 35 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 5 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | N-[(1R,3S)-3-(9-chloro-3-methyl-4-oxo-5H-isoxazolo[4,3-c]quinolin-5-yl)-cyclohexylmethyl]-nicotinamide | ClC=1C=2C=3C(C(N(C2C=CC1)[C@@H]1C[C@@H](CCC1)CNC(C1=CN=CC=C1)=O)=O)=C(ON3)C | C24H23ClN4O3
